US07776910B2
3-[4-(3-Fluoro-benzenesulfonyl)-2-hydroxymethyl-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (74 mg, 0.170 mmol) was dissolved in 25 ml of THF and the mixture was cooled to −78° C. LDA (0.102 ml, 0.204 mmol) was added and allowed to stir for 30 minutes. Dimethylcarbamoyl chloride (0.023 ml, 0.255 mmol) was added and the mixture was allowed to warm to room temperature over 3 hours. The mixture was diluted with water and extracted with EtOAc. The combined organic extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography (CH2Cl2/MeOH 95/5) to give 83 mgs (96%) of 3-[2-Dimethylcarbamoyloxymethyl-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester as a clear oil.

reactant | 3-[4-(3-Fluoro-benzenesulfonyl)-2-hydroxymethyl-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.170 mmol, 74 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)CO | C22H26FNO5S
reactant | LDA | 0.204 mmol, 0.102 ml | [Li+].CC(C)[N-]C(C)C
reactant | Dimethylcarbamoyl chloride | 0.255 mmol, 0.023 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-[2-Dimethylcarbamoyloxymethyl-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 83 mgs, 96% | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)COC(N(C)C)=O | C25H31FN2O6S
